US07645755B2
5-Cyano-furan-2-carboxylic acid
A 250-mL, three-neck, round-bottom flask equipped with a mechanical stirrer, a heating mantle, and a condenser was charged with 5-formyl-2-furancarboxylic acid (9.18 g, 65.6 mmol) and pyridine (60 mL). Hydroxylamine hydrochloride (5.01 g, 72.2 mmol) was added and the mixture was heated to 85° C. Acetic anhydride (40 mL) was added and the reaction was stirred at 85° C. for 3 h, after which time the solvent was evaporated at 40° C. under reduced pressure. The residue was dissolved in water, basified with 2.0 N NaOH solution to pH 9, and extracted with 4:1 dichloromethane/2-propanol until the pyridine was completely removed (5×200 mL). The aqueous solution was then acidified with 2.0 N HCl solution to pH 2, saturated with solid NaCl, and extracted with 4:1 dichloromethane/2-propanol (5×200 mL). The combined organic extracts were dried over Na2SO4 and concentrated in vacuo to dryness. The residue was crystallized from dichloromethane to give 6.80 g of the title compound as a white solid (76%). Mass spectrum (ESI-neg, m/z) Calcd. for C6H3NO3, 136.0 (M−H), found 136.1. The 1H NMR spectrum was consistent with the assigned structure.

reactant | 5-formyl-2-furancarboxylic acid | 65.6 mmol, 9.18 g | C(=O)C1=CC=C(O1)C(=O)O | C6H4O4
reactant | Hydroxylamine hydrochloride | 72.2 mmol, 5.01 g | Cl.NO
reactant | Acetic anhydride | 40 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 60 mL | N1=CC=CC=C1 | C5H5N
product | 5-Cyano-furan-2-carboxylic acid | 6.80 g, 76% | C(#N)C1=CC=C(O1)C(=O)O | C6H3NO3
